US08557872B2
Step 1: Synthesis of 2-methyl-3-(2-propyl-4-trifluoromethyl-phenyl)-acrylic acid
To a suspension of 2-methyl-3-(2-propyl-4-trifluoromethyl-phenyl)-acrylic acid ethyl ester (68 mg, 0.23 mmol) in THF (1 mL) was added a solution of 1N-LiOH (10 ml), and the mixture was stirred for 3 hours at room temperature. The resulting residue was dissolved in H2O and then washed three times with EtOAc, acidified with 1N HCl to pH 1-2. The solution was extracted three times with methylene chloride and then dried over anhydrous MgSO4 and concentrated in vacuo to give the title compound (60 mg, 96%).

reactant | 2-methyl-3-(2-propyl-4-trifluoromethyl-phenyl)-acrylic acid ethyl ester | 0.23 mmol, 68 mg | C(C)OC(C(=CC1=C(C=C(C=C1)C(F)(F)F)CCC)C)=O | C16H19F3O2
reactant | LiOH | 10 ml | [Li+].[OH-]
solvent | THF | 1 mL | C1CCOC1 | C4H8O
solvent | H2O | O | H2O
product | 2-methyl-3-(2-propyl-4-trifluoromethyl-phenyl)-acrylic acid | 60 mg, 96% | CC(C(=O)O)=CC1=C(C=C(C=C1)C(F)(F)F)CCC | C14H15F3O2
